US08003662B2
Step C: Preparation of N-(4-(2-(3-(diethylamino)prop-1-ynyl)thieno[3,2-b]pyridin-7-yloxy)-3-fluorophenylcarbamothioyl)-2-phenylacetamide:
To a stirred solution of 4-(2-(3-(diethylamino)prop-1-ynyl)thieno[3,2-b]pyridin-7-yloxy)-3-fluorobenzenamine (369 mg, 1.00 mmol) in 1:1 toluene/ethanol (5 mL) was added a solution of 4N HCl (0.375 mL, 1.50 mmol) in dioxane. Then 2-phenylethanoyl isothiocyanate (886 mg, 5.00 mmol; prepared according to J. Org. Chem. 1964, 29, 1115-1119) was added as a solution in toluene (1 mL) all at once. After stirring for 30 minutes at room temperature, the reaction mixture was concentrated. The residue was triturated with EtOAc (5 mL), and the resulting suspension was stirred for 1 hour to break up large chunks. The yellow suspension was filtered. The yellow solid was partitioned between EtOAc (15 mL) and a saturated aqueous solution of NaHCO3 (20 mL). The phases were separated, and the aqueous phase was re-extracted with EtOAc (2×15 mL). The combined organic phases were washed with brine (20 mL), dried (Na2SO4), filtered, and concentrated. The crude was purified on a Biotage Horizon system using a reverse phase C18 column (M25 size). The following gradient was utilized [solvent A=water, solvent B=CH3CN]: 15-30% B (100 mL), 30-70% B (300 mL), 70-95% B (100 mL), 95-100% B (100 mL), collecting in 96×9 mL tubes. Residual water/CH3CN was azeotroped with absolute EtOH (3×20 mL). The product was obtained as a white powder (170 mg, 31%). 1H NMR (400 MHz, CDCl3) δ 12.51 (br s, 1H), 8.59 (br s, 1H), 8.51 (d, J=6 Hz, 1H), 7.94 (m, 1H), 7.59 (s, 1H), 7.41 (m, 4H), 7.32 (m 2H), 7.26 (m, 1H, overlaps chloroform), 6.54 (d, J=6 Hz, 1H), 3.76 (s, 2H), 3.74 (s, 2H), 2.67 (q, J=7 Hz, 4H), 1.15 (t, J=7 Hz, 6H). LRMS (APCI neg) m/e 545 (M−1). HPLC: 100% purity (220 nm).

reactant | 4-(2-(3-(diethylamino)prop-1-ynyl)thieno[3,2-b]pyridin-7-yloxy)-3-fluorobenzenamine | 1.00 mmol, 369 mg | C(C)N(CC#CC1=CC2=NC=CC(=C2S1)OC1=C(C=C(C=C1)N)F)CC | C20H20FN3OS
reactant | toluene ethanol | 5 mL | C1(=CC=CC=C1)C.C(C)O
reactant | HCl | 1.50 mmol, 4N, 0.375 mL | Cl | ClH
reactant | 2-phenylethanoyl isothiocyanate | 5.00 mmol, 886 mg | C1(=CC=CC=C1)CC(=O)N=C=S | C9H7NOS
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-(2-(3-(diethylamino)prop-1-ynyl)thieno[3,2-b]pyridin-7-yloxy)-3-fluorophenylcarbamothioyl)-2-phenylacetamide | 170 mg, 31% | C(C)N(CC#CC1=CC2=NC=CC(=C2S1)OC1=C(C=C(C=C1)NC(=S)NC(CC1=CC=CC=C1)=O)F)CC | C29H27FN4O2S2
